US05175157
2-[(N-(3-(Indol-3-yl)-propyl)-piperidin-3-yl)-methyl]-5,6-dimethoxy-1-oxo-1,3-dihydro-isoindole x 1.5 benzenesulphonatetrihydrate
Prepared from 2-[(piperidin-3-yl)-methyl]-5,6-dimethoxy-1-oxo-1,3-dihydro-isoindole and 3-(3-benzenesulphonyloxy-propyl)-indole in dimethylformamide and triethylamine analogously to Example 1.

reactant | 2-[(piperidin-3-yl)-methyl]-5,6-dimethoxy-1-oxo-1,3-dihydro-isoindole | N1CC(CCC1)CN1C(C2=CC(=C(C=C2C1)OC)OC)=O | C16H22N2O3
reactant | 3-(3-benzenesulphonyloxy-propyl)-indole | C1(=CC=CC=C1)S(=O)(=O)OCCCC1=CNC2=CC=CC=C12 | C17H17NO3S
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2-[(N-(3-(Indol-3-yl)-propyl)-piperidin-3-yl)-methyl]-5,6-dimethoxy-1-oxo-1,3-dihydro-isoindole | N1C=C(C2=CC=CC=C12)CCCN1CC(CCC1)CN1C(C2=CC(=C(C=C2C1)OC)OC)=O | C27H33N3O3
